US07223750B2
1.1. 5-Bromo-2-phenylpyridine
30 g (0.127 mol) of 2,5-dibromopyridine in suspension in 100 ml of toluene, 15.4 g (0.127 mol) of phenylboronic acid, 4.4 g (0.0038 mol) of tetrakis(triphenylphosphine)palladium, 90 ml of a 2M aqueous solution of sodium carbonate and 4 ml of ethanol are introduced in succession into a 500 ml three-necked flask, and the mixture is heated at 90° C. for 22 h.

reactant | 2,5-dibromopyridine | 0.127 mol, 30 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | phenylboronic acid | 0.127 mol, 15.4 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | 4 ml | C(C)O | C2H6O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.0038 mol, 4.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Bromo-2-phenylpyridine | BrC=1C=CC(=NC1)C1=CC=CC=C1 | C11H8BrN
